US04224254
The same installation as in Example 1 is used. Using a similar method to Example 1, a mixture of 320 parts of m-dimethylaminobenzyl alcohol and 50 parts of water with 300 parts of air is passed per hour over the catalyst at 530° C. and 1.2 bar. The residence time is 0.035 second and the throughput 0.45 tonne/m2.h. 228 parts of m-dimethylaminobenzaldehyde (in the form of an 88 percent strength by weight organic phase) are obtained per hour, corresponding to a yield of 72% of theory. The conversion is 94 percent and the space-time yield is 11 grams of m-dimethylaminobenzaldehyde per cm3 of catalyst volume per hour.

reactant | m-dimethylaminobenzyl alcohol | CN(C=1C=C(CO)C=CC1)C | C9H13NO
solvent | water | O | H2O
product | m-dimethylaminobenzaldehyde | yield of 72% | CN(C=1C=C(C=O)C=CC1)C | C9H11NO
